US05408009
b) Production of 4-(6-acryloyloxyhexyloxy)benzaldehyde
8.9 g (0.04 mol) of 4-(6-hydroxyhexyloxy)benzaldehyde, 6.8 ml of triethylamine and 100 ml of acetonitrile were put in a three-neck flask equipped with a thermometer and a stirrer and cooled to 0° C. To this mixture was dropwise added a solution comprising 4.0 g (0.044 mol) of acryloyl chloride and 10 ml of acetonitrile with stirring at 0° C. to 5° C. After the addition, the whole mixture was stirred for one hour at 0° C. and poured into water containing ice. The crystals which precipitated out after a while were taken out by filtration, washed with water and dried by airing to obtain the intended compound. The yield of the product was 3.94 g (35.7%). The product had a melting point of 30° C. or lower.

reactant | 4-(6-hydroxyhexyloxy)benzaldehyde | 0.04 mol, 8.9 g | OCCCCCCOC1=CC=C(C=O)C=C1 | C13H18O3
reactant | triethylamine | 6.8 ml | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 100 ml | C(C)#N | C2H3N
reactant | acryloyl chloride | 0.044 mol, 4.0 g | C(C=C)(=O)Cl | C3H3ClO
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-(6-acryloyloxyhexyloxy)benzaldehyde | C(C=C)(=O)OCCCCCCOC1=CC=C(C=O)C=C1 | C16H20O4
